US04948804
1-benzoyl 5-cyclopentyloxy pyrrolidin-2-one
11.8 cm3 of a 1.5M solution of butyllithium in hexane is added at -70° C. to a solution of 3 g of 5-cyclopentyloxy pyrrolidin-2-one in 140 cm3 of tetrahydrofuran. The mixture is maintained at this temperature for 20 minutes, then a solution of 2.49 g of benzoyl chloride in 20 cm3 of tetrahydrofuran is added. The whole is heated gently, then brought to dryness under reduced pressure. After chromatography on silica (eluent: hexane-ethyl acetate 7-3), 3.4 g of expected product is obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 5-cyclopentyloxy pyrrolidin-2-one | 3 g | C1(CCCC1)OC1CCC(N1)=O | C9H15NO2
reactant | benzoyl chloride | 2.49 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 140 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-cyclopentyloxy pyrrolidin-2-one | 3.4 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OC1CCCC1)=O | C16H19NO3
